US04558140
Racemic [3aR-[ 3a alpha,4alpha-(1S*,2E),5beta,6a alpha]]-4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one
The crude racemic (3aR,4S,5R,6aS)-[S*,R*(E)]-rac-4-(4,4-Dimethyl-1-oxo-2-octenyl)hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one (12.9 g, 0.044 mole) in THF (60 mL) solution was cooled to -77° and treated dropwise with a 1M solution of potassium tri-sec-butyl-borohydride in THF (Aldrich "K-Selectride") (56 mL, 0.056 mole). Stirring at -77° was continued for 11/2 hours after the addition was completed. An aqueous solution of 10% NaOH (30 mL) was then added and the mixture allowed to warm to -20°. Aqueous 30% H2O2 (30 mL) was then added dropwise while keeping the temperature in the -5° to +5° range. After 1 hour, the cooling bath was removed and 3N HCL (90 mL) was added. Following 2 hours more of stirring, most of the solvent was stripped off and the product was taken up in ethyl acetate (200 mL). This solution was washed with aqueous NaHCO3, brine, and dried over Na2SO4. The volume was reduced to 100 mL by evaporation and this solution of crude [3aR-[3a alpha,4alpha-(1S*,2E),5beta,6a alpha]]-4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one was used directly in Example VII.

reactant | rac-4-(4,4-Dimethyl-1-oxo-2-octenyl)hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | 0.044 mole, 12.9 g | CC(C=CC(=O)C1C(CC2OC(CC21)=O)C)(CCCC)C | C18H28O3
reactant | potassium tri-sec-butyl-borohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[K+]
reactant | NaOH | 30 mL | [OH-].[Na+]
reactant | H2O2 | 30 mL | OO | H2O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 0.056 mole, 56 mL | C1CCOC1 | C4H8O
product | 4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | OC(C=CC(CCCC)(C)C)C1C(CC2OC(CC21)=O)C | C18H30O3
